US04548818
(d) Preparation of 3,7-dihydro-3-(2-methyl-1-butyl)-1H-purine-2,6-dione XXXXI
17.3 g of 5,6-diamino-1-(2-methyl-1-butyl)-2,4-(1H,3H)-pyrimidinedione (XXXXII) was refluxed in 30 ml of formic acid for 2 h. 20 ml of chloroform was added and ether was then added slowly. The received crystals were filtered off. Yield 17.0 g. The amide was refluxed in 50 ml of 2N NaOH for 2 hours and then neutralized with 5N HCl. The crystals were filtered off and recrystallized from 400 ml of ethanol. Yield 10 g (XXXXI) NMR (see Table I).

reactant | 5,6-diamino-1-(2-methyl-1-butyl)-2,4-(1H,3H)-pyrimidinedione | 17.3 g | NC=1C(NC(N(C1N)CC(CC)C)=O)=O | C9H16N4O2
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | ether | CCOCC | C4H10O
solvent | formic acid | 30 ml | C(=O)O | CH2O2
product | 3,7-dihydro-3-(2-methyl-1-butyl)-1H-purine-2,6-dione | CC(CN1C(NC(C=2NC=NC12)=O)=O)CC | C10H14N4O2
